US03950333
Reaction of 3-hydroxymethyl- 4-methyl-1,2,4-triazole with cysteamine hydrochloride and hydrobromic acid by the procedure of Example 1 gives 3-[(2-aminoethyl)thiomethyl]-4-methyl-1,2,4-triazole dihydrobromide, m.p. 175°-177°.

reactant | 3-hydroxymethyl- 4-methyl-1,2,4-triazole | OCC1=NN=CN1C | C4H7N3O
reactant | cysteamine hydrochloride | Cl.NCCS
reactant | hydrobromic acid | Br | BrH
product | 3-[(2-aminoethyl)thiomethyl]-4-methyl-1,2,4-triazole dihydrobromide | Br.Br.NCCSCC1=NN=CN1C | InChI=1S/C6H12N4S.2BrH/c1-10-5-8-9-6(10)4-11-3-2-7;;/h5H,2-4,7H2,1H3;2*1H
